Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Morphine / Plastic tape
 
Attending: ___.
 
Chief Complaint:
abd pain, pancreatitis
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ woman whose PMH includes RA, hypothyroidism, depression, 
s/p splenectomy ___ (as treatment of hemolytic anemia), 
cholecystectomy ___, pancreatic pseudocyst resection, recurrent 
pancreatitis as outlined below, attributed to sludge in CBD, 
last episode ___ (hospitalized here). Followed by GI Dr 
___ at ___. Does not have chronic pain, 
has been working and going to school. Developed gradual onset of 
epigastric pain which worsened over two weeks, assoc with nausea 
but no emesis. This is typical of her prior flares of 
pancreatitis. Pain became severe ___ so she presented to OSH 
ED, where lipase was 400, so she was transferred here for ERCP. 

In the ED, vitals were: Temp: 98.1 HR: 66 BP: 107/57 Resp: 15 O2 
Sat: 98% RA. She was given dilaudid 1mg IV x ___s 
zofran 4mg IV. On the medical floor, she reports good response 
to dilaudid given in ED. Has been eating small amounts because 
feels hungry, though food makes pain markedly worse. No F/C, CP, 
SOB, URI sx. No diarrhea, no hematochezia.  No fevers or chills, 
no CP, no SOB. ROS otherwise unremarkable.

 
Past Medical History:
# recurrent pancreatitis: onset after partial pancreatectomy 
___, became recurrent ___ acute pancreatitis, ERCP with sphincterotomy and stent 
placement in pancreatic duct
- ___ acute episodes, ERCP with stent extension
- ___ acute pancreatitis, ERCP showed no duct stenosis
# hemolytic anemia: reaction to Keflex, treated with  
splenectomy ___.  
# s/p cholecystectomy ___  
# s/p appendectomy ___
# coagulase negative staphylococcus bacteremia secondary to PICC 
line infection ___
# RUE DVT secondary to central line ___, treated with warfarin
# ___ DVT & PE ___ post-op, treated with warfarin 
# rheumatoid arthritis (flares mostly in wrists & ankles)
# asthma: mild intermittent, URI-induced, rarely uses MDI
# hypothyroidism  
# s/p tubal ligation  ___
# depression / anxiety  

 
Social History:
___
Family History:
Father- lung cancer, died at age ___ in ___
sister- ___ 
Mother- osteoporosis, HTN, hypothyroidism, T2DM, chronic pain, 
alive

 
Physical Exam:
EXAM: VS 98.1 107/55 61 96%RA
PAIN: 3 out of 10
GEN:   NAD, well-appearing
EYES:  conjunctiva clear anicteric
ENT:   dry mucous membranes
NECK:  supple
CV:    RRR s1s2 
PULM:  CTA
GI:    normal BS, ND, soft, mild epigastric tenderness
EXT:   warm, no edema, no joint effusions
SKIN:  no rashes
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands
PSYCH: appropriate, tearful when talking about her son
ACCESS: ___ 
FOLEY: none 

 
Pertinent Results:
___ 03:52AM   WBC-8.3 RBC-3.74* HGB-11.8* HCT-34.4* MCV-92 
MCH-31.5 MCHC-34.2 RDW-12.8
___ 03:52AM   NEUTS-55.9 ___ MONOS-8.0 EOS-2.6 
BASOS-1.0
___ 03:52AM   PLT COUNT-409
___ 03:52AM   GLUCOSE-109* UREA N-13 CREAT-0.9 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-109* TOTAL CO2-25 ANION GAP-11
___ 03:52AM   ALT(SGPT)-37 AST(SGOT)-42* ALK PHOS-99 TOT 
BILI-0.2
___ 03:52AM   LIPASE-166*

CT ABDOMEN W & W/O CONTRAST ___:

COMPARISON:  CT abdomen and pelvis from ___
 
FINDINGS: 
There is dependent atelectasis and bronchiolectasis in the 
bilateral lower
lobes.  The previously described 5 mm nodule in the lateral 
right lower lobe
is not seen on the current study.
 
LIVER: The liver enhances homogeneously without a new focal 
lesion. The portal
vein is patent.Patient is status post cholecystectomy with 
surgical clips in
the gallbladder fossa. The common bile duct is dilated at the 
head of the
pancreas, up to 12 mm (14:16).  There is continued intra and 
extra hepatic
biliary dilatation, which is unchanged and nonspecific given the 
prior history
of cholecystectomy and partial pancreatectomy.  There is a tiny 
focus of
pneumobilia (12: 15).
 
SPLEEN: Patient is status post splenectomy. There is a 6.7 x 5.2 
cm splenule
in the left upper quadrant.
 
PANCREAS: Patient is status post partial pancreatectomy, with 
unchanged mild
diffuse dilation of the main pancreatic duct up to 4 mm (12:27).
 
ADRENALS: The adrenal glands are visualized and unremarkable.
 
KIDNEYS: The kidneys demonstrate symmetric nephrograms and 
excrete contrast
promptly. There is no focal lesion or hydronephrosis.
 
GI:The stomach is distended without obvious intraluminal mass or 
wall
thickening.The visualized portions of the small and large bowel 
are within
normal limits, without wall thickening or evidence of 
obstruction.  There is
an unremarkable hepaticojejunostomy.
 
RETROPERITONEUM: The aorta and common iliac vessels are normal 
in caliber,
with no significant atherosclerotic calcifications.  The left 
gonadal vein is
prominent, and may represent a persistent segment of the 
embryological left
IVC component (___). There is also an accessory left renal 
artery. There
is no retroperitoneal or mesenteric lymph node enlargement by CT 
size
criteria.
 
BONES: No focal lesion suspicious for malignancy.
 
IMPRESSION: 
 
1.  No significant change when compared to the CT from ___.
 
2. Persistent, unchanged intra and extrahepatic biliary 
dilatation and mild
pancreatic duct dilatation status post partial pancreatectomy, 
splenectomy,
cholecystectomy, and hepaticojejunostomy.
.
EGD:
Impression: Normal mucosa in the whole esophagus
Gastric deformity (biopsy)
Normal mucosa in the whole duodenum (biopsy)
Otherwise normal EGD to third part of the duodenum 
Recommendations: Nothing on this study to explain the patient's 
pain
Followup inpatient GI recs 

___ 07:20AM BLOOD WBC-9.7 RBC-3.38* Hgb-10.1* Hct-30.1* 
MCV-89 MCH-29.9 MCHC-33.5 RDW-13.8 Plt ___
___ 11:00AM BLOOD ALT-25 AST-26 AlkPhos-86 TotBili-0.7
___ 07:57AM BLOOD Lipase-___ woman whose PMH includes hypothyroidism, RA, depression, 
s/p splenectomy ___ to treat hemolytic anemia, s/p partial 
pancreatectomy and CCY ___, subsequent ERCPs. Has had recurrent 
pancreatitis attributed to biliary sludge, transferred from OSH 
for consideration of ERCP.

# recurrent acute pancreatitis: Has been previously attributed 
to biliary sludge s/p distant cholecystectomy and partial 
pancreatectomy. Currently there is no other clear etiology. Some 
prior notes have documented she has chronic pancreatitis, with 
last CT scan ___ reporting diffuse dilatation of the main 
pancreatic duct, but her overall clinical picture was not 
entirely consistent with chronic pancreatitis. CT scan of the 
abdomen was obtained and was unchanged from her last scan in 
___, which was when she was hospitalized for her last flare. 
She was clinically stable, tolerating clear liquid diet, but 
epigastric abdominal pain and nausea persisted. Case was 
discussed with ERCP team, who found no indication for another 
ERCP given clinical stability with unremarkable labs and 
unchanged CT scan. Given that EGD was unremarkable, pain 
attributed to her pancreas and she was started on pancreatic 
enzymes ___. She was started on a PPI. Her diet was advanced to 
clears ___ and regular low fat on ___. She will be following 
up with ___ her gastroenterologist and her PCP for 
ongoing care. She was prescribed a limited supply of dilaudid 
and advised not to take her already prescribed percocet. She was 
told to taper down and off her pain medications. She was 
prescribed zofran for nausea.

# epigastric pain: somewhat atypical location for pancreatitis. 
She remained stable with dilaudid for analgesia and zofran prn 
nausea. On ___ she had one episode of emesis, which was the 
first time she vomited since the onset of pain two weeks prior 
to admission. This was the only episode. Ddx included PUD/  
gastritis, especially in the setting of chronic NSAID use. She 
was started on PPI and given maalox prn dyspepsia. GI was 
consulted, and they recommended EGD. EGD on ___ was 
unremarkable. She was started on a PPI. Diet was advanced. See 
above.
.
#dyspnea/asthma-pt reported h.o asthma. After her EGD she felt 
SOB similar to prior asthma flares. She was not hypoxic, 
tachypneic nor did she have wheezing on exam. Symptoms improved 
with albuterol for which she was given a prescription upon 
discharge.
.
# RA: stable, no acute flare. NSAIDs were held. ___ advised to 
discuss use of NSAIDS with her rheumatologist.

# Chronic conditions were stable, and she was continued on her 
outpatient medications.

# multiple stressors, including traumatic death of her young 
son: Pt is well connected with PCP and therapist, and she is on 
an antidepressant & anxiolytic. SW was consulted and met with pt 
re coping and support.

# DVT PROPHYLAXIS: heparin sc
  
# CODE STATUS:     full code   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Citalopram 40 mg PO DAILY 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. Nabumetone 750 mg PO DAILY 
5. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. Lorazepam 1 mg PO BID:PRN anxiety 
5. TraZODone 25 mg PO QHS:PRN insomnia 
6. Creon 12 3 CAP PO TID W/MEALS 
RX *lipase-protease-amylase [Creon] 12,000 unit-38,000 
unit-60,000 unit 3 capsule(s) by mouth TID with meals Disp #*270 
Capsule Refills:*0
7. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN severe pain 
take as directed. do not drive 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 6 hours Disp 
#*15 Tablet Refills:*0
8. Nicotine Patch 14 mg TD DAILY Tobacco withdrawal 
RX *nicotine 14 mg/24 hour 1 patch daily Disp #*15 Patch 
Refills:*0
9. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg ___ puffs inhaled q6hrs Disp #*1 
Inhaler Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# peptic ulcer disease/ gastritis
# recurrent pancreatitis
# chronic pancreatitis

secondary:
# rheumatoid arthritis
# depression
# hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please see below
You were admitted with abdominal pain due to pancreatitis. You 
were treated with medications and bowel rest. You were started 
on pancreatic enzymes. You had an EGD that was unrevealing and 
CT scan that was stable compared to your last one. Your diet was 
advanced to a regular, low fat diet.

You were prescribed a small supply of pain medication upon 
discharge. Please take this medication as prescribed with the 
goal of tapering it down to not requiring it anymore. Do not 
take this medication with percocet. Do not drive when taking 
this medication. Please take this medication with stool 
softeners. 
 
Followup Instructions:
___